US06342765B1
Sodium borohydride (0.56 g, 14.9 mmol) was added to a solution of 2-(1-methylimidazol-5-yl)-1-(thiazol-2-yl)ethanone in methanol (150 ml) and the mixture stirred under a nitrogen atmosphere at ambient temperature for 2 hours. The reaction was evaporated to dryness and the resulting gum was treated with water (15 ml) and stirred for 30 minutes to give a solid precipitate which was filtered and dried to give 2-(1-methylimidazol-5-yl)-1-(thiazol-2-yl)ethanol (2.67 g, 95%).

reactant | Sodium borohydride | 14.9 mmol, 0.56 g | [BH4-].[Na+]
reactant | 2-(1-methylimidazol-5-yl)-1-(thiazol-2-yl)ethanone | CN1C=NC=C1CC(=O)C=1SC=CN1 | C9H9N3OS
solvent | methanol | 150 ml | CO | CH4O
product | 2-(1-methylimidazol-5-yl)-1-(thiazol-2-yl)ethanol | 2.67 g, 95% | CN1C=NC=C1CC(O)C=1SC=CN1 | C9H11N3OS
